US05455238
[4-fluoro-(2,3-bis-hydroxy)-phenyl]-hydroxy acetic acid
51.2 g of 3-fluorocatechol and 36.8 g of glyoxylic acid were dissolved at 20° C. in 160 ml of water and 34.8 g of sodium hydroxide in solution in 400 ml of water were added to this solution cooled to 0° C. The mixture was heated for 4 hours at 46° C., then cooled to 0° C. and the pH was brought to 4.6 by the addition of concentrated hydrochloric acid. Extraction was carried out with ethyl ether (after evaporation 14.7 g of the starting 9-fluorocatechol were collected) and the aqueous phase was acidified with concentrated hydrochloric acid until a pH of 1.8 was obtained. Extraction was carried out with ethyl acetate and after evaporation of the solvent, 47.7 g of the desired product were obtained (mixture of isomers, 2,3-bis-hydroxy-4-fluoro; 3,4-bis-hydroxy-5-fluoro; 2-fluoro-3,4-bis-hydroxy) which was used as is in Step A of Example 16.

reactant | 3-fluorocatechol | 51.2 g | FC1=C(C(O)=CC=C1)O | C6H5FO2
reactant | glyoxylic acid | 36.8 g | C(C=O)(=O)O | C2H2O3
reactant | sodium hydroxide | 34.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 160 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | [4-fluoro-(2,3-bis-hydroxy)-phenyl]-hydroxy acetic acid | 47.7 g | FC1=C(C(=C(C=C1)C(C(=O)O)O)O)O | C8H7FO5
